US20010001799A1
A solution of dimethyl-5-iodisophthalate in 800 ml of THF was treated with with 22.2 g of CaCl2. Then, 15.2 g of NaBH4 were added portionwise. The mixture was stirred for one day at room temperature. Then, the mixture was acidified with 250 ml of 3N HCl and diluted with 2 l of H2O. The crude product was isolated by extraction and purified by crystallization from THF/hexane. There were obtained 11.2 g of (3-hydroxymethyl-5-iodo-phenyl)-methanol as white crystals.

reactant | dimethyl-5-iodisophthalate | COC(C1=CC(C(=O)OC)=CC(=C1)I)=O | C10H9IO4
reactant | CaCl2 | 22.2 g | [Cl-].[Cl-].[Ca+2]
reactant | NaBH4 | 15.2 g | [BH4-].[Na+]
reactant | HCl | 3N, 250 ml | Cl | ClH
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | H2O | 2 l | O | H2O
product | (3-hydroxymethyl-5-iodo-phenyl)-methanol | 11.2 g | OCC=1C=C(C=C(C1)I)CO | C8H9IO2
